.subckt PWMCM_EMI_MODEL OUT 0 CMP FB SENS RAMP params: VRef = 2.5 fsw = 100k Vlow = 0.01 Vhigh = 5 VOSC_H = 1.2 DRIVER_HIGH = 5 roa = 0.1 fp = 20 aol = 1000 RATIO = 0.033 DISABLE_OPAMP = 0
* to disable internal OPAMP - set DISABLE_OPAMP variable to 1 and increase roa to 100k, ground FB pin and apply feedback on CMP pin
R1 N1 0 {ROUT}
C1 N1 0 {C1}
G1 0 N1 N005 FB {Gm}
R2 N2 N004 {roa}
V1 N006 0 {Vlow}
V2 N007 0 {Vhigh}
D1 N006 N1 MyD
D2 N1 N007 MyD
E1 N004 0 N1 0 1
V3 S 0 PULSE({Vlow} {Vhigh} 0 1n 1n 10n {1/fsw})
V4 RAMP 0 PULSE({Vlow} {VOSC_H} 0 {1/(fsw)-2n} 1n 1n {1/(fsw)})
B1 NHYS NINV_COMPARATOR V=IF(V(OUT_COMPARATOR) > (HIGH + LOW)/2, HYS, 0)
R3 INV_COMPARATOR 0 10Meg
R4 OUT_COMPARATOR N003 10
B2 N003 0 V=IF(V(NHYS,INV_COMPARATOR) > 0, HIGH, LOW)
C2 OUT_COMPARATOR 0 10p
B3 N002 0 V=IF((V(IN1_OR) > VT_OR) | (V(IN2_OR) > VT_OR), 5, 0.1)
R5 IN1_OR 0 10Meg
R6 IN2_OR 0 10Meg
R7 R N002 100
C3 R 0 10p
R8 S 0 10Meg
R9 R 0 10Meg
R11 IN2_OR OUT_COMPARATOR 1m
R12 NINV_COMPARATOR SENS 1m
R13 INV_COMPARATOR OUT_OPAMP 1m
V5 MAX_DUTY_RESET 0 PULSE({Vlow} {Vhigh} {Tsw*DUTYMAX} 1n 1n {Tsw - Tsw*DUTYMAX-2n} {1/fsw})
R14 IN1_OR MAX_DUTY_RESET 1m
B6 OUT_OPAMP 0 V=V(N2)*RATIO
V6 N005 0 {VRef}
R24 N001 Q 1m
E2 OUT 0 N001 0 {DRIVER_HIGH}
A2 0 R 0 Qn 0 Q 0 0 OR td =1n tau = 2.34n
A3 0 Q 0 S 0 Qn 0 0 OR tau = 1.2n
R10 N2 CMP 0.1m
*.meas openloop_gain PARAM ROUT*Gm
.model MyD D(N=0.1)
*.meas origin_pole PARAM 1/(2*3.14*ROUT*C1)
*.param fp = 200
*.param aol = 1000
.param Gm = IF(DISABLE_OPAMP > 0, 0, 100u)
.param ROUT = IF(DISABLE_OPAMP > 0, 1Meg, aol/Gm)
.param C1 = IF(DISABLE_OPAMP > 0, 0, 1/(6.28*ROUT*fp))
*.param Vlow = 0.01 VHigh = 3
*.param roa=0.1
*.param fsw = 250k
.param HIGH = 5
.param LOW = 0.1
.param HYS = 0
.param VT_OR = 2
.param DUTYMAX = 0.8
.param Tsw = 1/fsw
*.param RATIO = 0.033
*.param VRef = 2.5
.param DRIVER_HIGH = 5
*.param VOSC_H = 1.2
* -> where DUTYMAX*Tsw = ton,max
* -> Vlow and Vhigh are representative and common for the op-amp output limits and the oscillator limits
*.param DISABLE_OPAMP = 0
.backanno
.ends
